US04550118
6-ethoxycarbonyl-2-methylbenzothiazole (2.09 g) prepared according to the method described in J. Gen. Chem. vol. 5, pp. 260-266 (1945) was subjected to bromination with NBS (1.78 g) in carbon tetrachloride (30 mg). Then, the product was caused to react with dimethylamine to yield a new compound of 6-ethoxycarbonyl-2-dimethylaminomethylbenzothiazole (0.8 g). Then, the compound was provided with the same treatment as that described in Examples 49-51 to yield 6-[(2-aminoethyl)thiomethyl]-2-(dimethylaminomethyl)benzothiazole.2hydrobromide (1.2 g).

reactant | 6-ethoxycarbonyl-2-methylbenzothiazole | 2.09 g | C(C)OC(=O)C1=CC2=C(N=C(S2)C)C=C1 | C11H11NO2S
reactant | NBS | 1.78 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dimethylamine | CNC | C2H7N
solvent | carbon tetrachloride | 30 mg | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-ethoxycarbonyl-2-dimethylaminomethylbenzothiazole | 0.8 g | C(C)OC(=O)C1=CC2=C(N=C(S2)CN(C)C)C=C1 | C13H16N2O2S
